US08754089B2
A heterogeneous mixture of (3-bromo-7-fluoro-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)methyl acetate (7.7539 g, 24.61 mmol), HCl (6.972 mL, 83.67 mmol), and 1,4-dioxane (70.31 mL) was heated under stirring at 70° C. After 4 h, the mixture was cooled to rt and the mixture was concd under reduced pressure. The residue was diluted with water (100 mL) and treated with 28% ammonium hydroxide (10 mL) until pH neutral. The precipitate was filtered, washed with water (300 mL), and dried under high vacuum overnight to give 3-bromo-7-fluoro-2-(hydroxyl-methyl)-4H-pyrido[1,2-a]pyrimidin-4-one as a brown solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.97 (1 H, ddd, J=4.9, 2.8, 0.7 Hz), 8.17 (1 H, ddd, J=9.8, 7.1, 2.8 Hz), 7.88 (1 H, ddd, J=9.8, 5.4, 0.7 Hz), 5.35 (1 H, br. s.), 4.60 (2 H, s); Mass Spectrum (ESI) m/e=273.0 [M+1 (79Br)] and 274.9 [M+1 (81Br)].

reactant | (3-bromo-7-fluoro-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)methyl acetate | 24.61 mmol, 7.7539 g | C(C)(=O)OCC=1N=C2N(C(C1Br)=O)C=C(C=C2)F | C11H8BrFN2O3
reactant | HCl | 83.67 mmol, 6.972 mL | Cl | ClH
reactant | 1,4-dioxane | 70.31 mL | O1CCOCC1 | C4H8O2
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
solvent | water | 100 mL | O | H2O
product | 3-bromo-7-fluoro-2-(hydroxyl-methyl)-4H-pyrido[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C=C(C=C2)F)CO | C9H6BrFN2O2
